US07105503B2
3-Nitrobenzenesulfonyl chloride (2.22 g) dissolved in 20 mL of THF was added to a solution of 2-aminoethanol (2.0 g) and tryethylamine (2.0 g) in 20 mL of THF. The reaction mixture was kept at ambient temperature overnight. The solvent was removed and the residue was dissolved in water (20 mL) and then extracted with EtOAc (2×50 mL). The solvent of the organic layer was removed and the residue was dissolved in 50 mL of EtOH and a catalytic amount of Raney-Nickel was added, followed by the addition of hydrazine hydrate (2 mL). The reaction mixture was kept at ambient temperature under argon overnight, filtered through a celite cake. The solvent of the filtrate was removed yielding 1.1 g of 3-amino-N-(2-hydroxyethyl)benzenesulfonamide which was used in the next step without further purification.

reactant | 3-Nitrobenzenesulfonyl chloride | 2.22 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | 2-aminoethanol | 2.0 g | NCCO | C2H7NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-amino-N-(2-hydroxyethyl)benzenesulfonamide | 1.1 g | NC=1C=C(C=CC1)S(=O)(=O)NCCO | C8H12N2O3S
